US08283364B2
4,5-Difluoro-6-methyl-1-[1-(tetrahydro-2H-pyran-4-yl)-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one hydrochloride (E4)
4,5-Difluoro-6-methyl-1-(4-piperidinyl)-1,3-dihydro-2H-benzimidazol-2-one hydrochloride D23 (120 mg) was dissolved in dichloromethane (5 ml) and diisopropylethylamine (0.2 ml, 1.2 mmol), tetrahydro-4H-pyran-4-one (0.2 ml, 2.0 mmol) and sodium triacetoxyborohydride (250 mg, 1.2 mmol) were added and the mixture stirred at room temperature for 4 h. The mixture was partitioned with water/MDC at pH9. Drying (MgSO4), evaporation, and crystallisation of the residue from diethyl ether, washing with dichloromethane gave the title compound free base, which was converted to the hydrochloride. Trituration with diethyl ether gave 35 mg of hydrochloride salt. MH+=352,

reactant | 4,5-Difluoro-6-methyl-1-(4-piperidinyl)-1,3-dihydro-2H-benzimidazol-2-one hydrochloride | Cl.FC1=C(C(=CC=2N(C(NC21)=O)C2CCNCC2)C)F
reactant | diisopropylethylamine | 1.2 mmol, 0.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tetrahydro-4H-pyran-4-one | 2.0 mmol, 0.2 ml | O1CCC(CC1)=O | C5H8O2
reactant | sodium triacetoxyborohydride | 1.2 mmol, 250 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4,5-Difluoro-6-methyl-1-[1-(tetrahydro-2H-pyran-4-yl)-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one hydrochloride | Cl.FC1=C(C(=CC=2N(C(NC21)=O)C2CCN(CC2)C2CCOCC2)C)F | InChI=1S/C18H23F2N3O2.ClH/c1-11-10-14-17(16(20)15(11)19)21-18(24)23(14)13-2-6-22(7-3-13)12-4-8-25-9-5-12;/h10,12-13H,2-9H2,1H3,(H,21,24);1H
